Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / aspirin
 
Attending: ___
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
___ - L3-5 laminectomy, L4-5 discectomy
 
History of Present Illness:
___ is a ___ year old female with who was injured in 
___ and since then has had complaints of low back and leg pain. 
The severity of the pain fluctuates but is present with walking, 
sitting, and standing. The patient has lost 100 lbs over the 
past couple of years. She has now developed leg pain associated 
with numbness and tingling in the L4 and L5 distribution. MRI 
revealed disc herniations at L3-4 and L4-5. She has tried 
Neurontin, injections, physical therapy, and pain medications 
with minimal relief. She presents for elective surgical 
treatment.
 
Past Medical History:
Back pain
Leg pain
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Upon Discharge:
==============

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal 
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    Grip    IP    Q    H     AT    ___    G

Sensation: Intact to light touch

Incision closed with staples. Clean, dry, intact. 
 
Pertinent Results:
Please see OMR for relevant findings.
 
Brief Hospital Course:
___ is a ___ year old female with low back and leg 
pain who presents for elective surgical treatment.

#Lumbar disc herniations
On ___, the patient underwent elective L3-5 laminectomy and 
L4-5 discectomy. The procedure was uncomplicated. A drain was 
left in place. For further procedure details, please see 
separately dictated operative report by Dr. ___. The 
patient was extubated in the operating room and transported to 
the PACU for recovery. Once stable, she was transferred to the 
floor. On ___, the patient's JP drain was removed and a 
post-removal x-ray confirmed absence of foreign body. The 
patient ambulated well independently and was deemed safe and 
ready for discharge home with appropriate follow-up. 
 
Medications on Admission:
Albuterol Sulfate 90 mcg ___ puffs PRN SOB/wheezing, Gabapentin 
300mg QAM and 600mg QHS, Oxycodone 5mg Q6h PRN pain
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain 
Do not exceed 4g in 24h  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Diazepam 5 mg PO Q8H:PRN muscle spasm 
RX *diazepam 5 mg 1 tab by mouth every 8 hours as needed Disp 
#*40 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  Gabapentin 300 mg PO BID 
RX *gabapentin 300 mg 1 capsule(s) by mouth twice a day Disp 
#*14 Capsule Refills:*0 
6.  Senna 17.2 mg PO QHS  
7.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  
8.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Low back pain
Leg pain
Lumbar disc herniations

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
• Your incision is closed with staples. You will need staple 
removal. Please keep your incision dry until staple removal.
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after staple removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___